US05366972
10.0 g (0.030 mol) of 5,11-dihydro-11-[(4-methoxyphenyl)methyl]-6H-dipyrido-[3,2-b:2',3'-e][1,4]diazepin-6-one was added to a flask containing 2.16 g of a 50% dispersion of sodium hydride in mineral oil and 100 ml of dimethylformamide. The resulting mixture was stirred at room temperature for 30 min. and then heated to 50° C. for 30 min. After cooling, 8.51 g (0.060 mol) of methyl iodide in 10 ml of dimethylformamide was added dropwise and the mixture was allowed to stir at room temperature overnight. Excess sodium hydride was decomposed by the careful addition of ice. Water was then added, and the product was extracted with ether, dried (anhydrous sodium sulfate), and concentrated to give 10.3 g (99% of theory) of 5,11-dihydro- 11-[(4-methoxy-phenyl)-methyl]-5-methyl-6H-dipyrido-[3,2-b:2',3'-e][1,4]diazepin-6-one as a light yellow oil suitable for use in the next reaction.

reactant | 5,11-dihydro-11-[(4-methoxyphenyl)methyl]-6H-dipyrido-[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.030 mol, 10.0 g | COC1=CC=C(C=C1)CN1C2=C(NC(C3=C1N=CC=C3)=O)C=CC=N2 | C19H16N4O2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.060 mol, 8.51 g | CI | CH3I
reactant | Water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5,11-dihydro- 11-[(4-methoxy-phenyl)-methyl]-5-methyl-6H-dipyrido-[3,2-b:2',3'-e][1,4]diazepin-6-one | 10.3 g, 99% | COC1=CC=C(C=C1)CN1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC=N2 | C20H18N4O2
